US08614290B2
HATU/HOAt Coupling (General Procedure)
A solution of Fmoc-Xaa-OH (2 eq.), HATU (2 eq.), HOAt (hydroxyazobenzotriazole) (2 eq.), DIEA (4 eq.) in NMP (1 ml/g resin) was added to the resin-bound peptides and shaken for 3 hours at room temperature and washed with NMP (5×).

reactant | HATU | 2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | HATU HOAt | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F.C1=CC2=C(N=C1)N(N=N2)O | InChI=1S/C10H15N6O.C5H4N4O.F6P/c1-14(2)10(15(3)4)17-16-9-8(12-13-16)6-5-7-11-9;10-9-5-4(7-8-9)2-1-3-6-5;1-7(2,3,4,5)6/h5-7H,1-4H3;1-3,10H;/q+1;;-1
